US05280032
In 15 ml of ethanol was dissolved 1.5 g of 1-(benzo[b]thiophen-5-yl)-1-(2-tetrahydropyranyloxy)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethane. To the solution was added 4.9 ml of a 40% aqueous methylamine solution. The resulting mixture was refluxed for 1 hour. The reaction mixture was added to a mixture of 20 ml of ice water and 20 ml of diethyl ether. The organic layer was separated. The aqueous layer was extracted with 20 ml of diethyl ether. The extract was combined with the previously separated organic layer. To the combined organic layer was added 20 ml of water. The resulting mixture was adjusted to pH 1.5 with 6N hydrochloric acid and stirred at room temperature for 20 minutes. The aqueous layer was separated. The organic layer was extracted with 10 ml of water. The extract was combined with the previously separated aqueous layer. To the combined aqueous layer was added 30 ml of methylene chloride. The resulting mixture was adjusted to pH 11 with a 10% aqueous sodium hydroxide solution. The organic layer was separated. The aqueous layer was extracted with 15 ml of methylene chloride. The extract was combined with the previously separated organic layer and the combined organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was dissolved in 7 ml of acetone. To the solution was added 0.5 ml of a 5N dry hydrogen chloride-ethanol solution. The resultinq mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 7 ml of diethyl ether. The resulting crystals were collected by filtration to obtain 0.5 g of 1-(benzo[b]thiophen-5-yl)-2-(N-methylaminoethoxy)ethanol hydrochloride (compound No. 347).

reactant | 1-(benzo[b]thiophen-5-yl)-1-(2-tetrahydropyranyloxy)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethane | 1.5 g | S1C2=C(C=C1)C=C(C=C2)C(COCCOS(=O)(=O)C2=CC=C(C=C2)C)OC2OCCCC2 | C24H28O6S2
reactant | methylamine | CN | CH5N
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride ethanol | 5N | Cl.C(C)O
reactant | diethyl ether | 7 ml | C(C)OCC | C4H10O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 1-(benzo[b]thiophen-5-yl)-2-(N-methylaminoethoxy)ethanol hydrochloride | 0.5 g | Cl.S1C2=C(C=C1)C=C(C=C2)C(COCCNC)O | InChI=1S/C13H17NO2S.ClH/c1-14-5-6-16-9-12(15)10-2-3-13-11(8-10)4-7-17-13;/h2-4,7-8,12,14-15H,5-6,9H2,1H3;1H
